US06603012B2
850 mg of (R)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanol dissolved in 50 ml THF were treated with 810 mg of triphenylphosphine, 470 mg of methyl 4-hydroxybenzoate and 0.49 ml of diethyl azodicarboxylate. The reaction mixture was heated to reflux for 6 hours. The mixture was diluted with 100 ml of ether and washed with two portions of 25 ml of water and one portion of 25 ml of sat. aq. sodium chloride solution. The organic phase was dried over MgSO4. The solvents were removed in vacuo and the resulting yellow oil was purified by flash chromatography (SiO2, 3% ethyl acetate/hexanes), giving 1 g of (R)-methyl 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptyloxy]-benzoate as a colorless oil, [α]D=−23.3 (c=0.307, in CHCl3).

reactant | (R)-2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptanol | 850 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)[C@H](CO)CCCCC)C | C21H34O
reactant | triphenylphosphine | 810 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl 4-hydroxybenzoate | 470 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | diethyl azodicarboxylate | 0.49 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | 100 ml | CCOCC | C4H10O
product | (R)-methyl 4-[2-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-heptyloxy]-benzoate | 1 g | CC1(C=2C=CC(=CC2C(CC1)(C)C)[C@H](COC1=CC=C(C(=O)OC)C=C1)CCCCC)C | C29H40O3
